US04849518
Allyl trans-2-[3-(7-Iodo-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate
In the manner of Example 4, 1.09 g (0.003 mol) of 7-iodo-6-methylthioquinazolin-4(3H)-one formic acid salt and 1.0 g (0.003 mol) of allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate were converted into the title compound: yield 0.53 g (31%); mass spectrum m/e 571 (molecular ion), 539 (-32, --CH3OH), 221 (parent peak). 1H-NMR(CDCl3) 1.4-2.1 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.6 (singlet, 3H, SCH3), 2.8-3.4 (multiplet, 4H, NCH2, COCH2CH), 3.4 (singlet, 3H, OCH3), 4.0 (broad singlet, 1H, CHNCO), 4.6 (doublet, 2H, CH2CH=CH2), 5.0 (singlet, 2H, NCH2CO), 5.0-5.5 (multiplet, 2H, CH=CH2), 5.6-6.1 (octet, 1H, CH2 =CH ), 7.7 (singlet, 1H, aromatic H), 7.8 (singlet, 1H, N=CH--N), 8.2 (singlet, 1H, aromatic H).

reactant | 7-iodo-6-methylthioquinazolin-4(3H)-one formic acid salt | 0.003 mol, 1.09 g | C(=O)O.IC1=C(C=C2C(NC=NC2=C1)=O)SC
reactant | allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate | 0.003 mol, 1.0 g | BrCC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O | C13H20BrNO4
product | Allyl trans-2-[3-(7-Iodo-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | IC1=C(C=C2C(N(C=NC2=C1)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O)=O)SC | C22H26IN3O5S
